US05869485
5-(4-Hydroxyphenyl)-7-[4-(2-(1-imidazolyl)ethoxy)phenyl]-4-aminopyrrolo-[2,3-d]pyrimidine
0.5 g of 5-(4-benzyloxyphenyl)-7-[4-(2-(1-imidazolyl)ethoxy)phenyl]-4-aminopyrrolo[2,3-d]-pyrimidine is hydrogenated for 22 h in a hydrogen atmosphere at normal pressure and about 50° C. in 15 ml of THF in the presence of 0.1 g of 5% palladium/carbon. After filtration through Celite and crystallization by addition of ether, 5-(4-hydroxyphenyl)-7-[4-(2-(1-imidazolyl)ethoxy)phenyl]-4-aminopyrrolo[2,3-d]pyrimidine having an m.p. of 210°-212° C. is obtained.

reactant | 5-(4-benzyloxyphenyl)-7-[4-(2-(1-imidazolyl)ethoxy)phenyl]-4-aminopyrrolo[2,3-d]-pyrimidine | 0.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2=CC=C(C=C2)OCCN2C=NC=C2 | C30H26N6O2
reactant | hydrogen | [H][H] | H2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
catalyst | palladium/carbon | 0.1 g | [Pd] | Pd
product | 5-(4-Hydroxyphenyl)-7-[4-(2-(1-imidazolyl)ethoxy)phenyl]-4-aminopyrrolo-[2,3-d]pyrimidine | OC1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2=CC=C(C=C2)OCCN2C=NC=C2 | C23H20N6O2
